US04133889
7-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid tris (hydroxymethyl) methylamine salt monohydrate
A solution of 0.121 parts of tris (hydroxymethyl) methylamine in 25 parts of ethyl alcohol was added to a solution of 0.498 parts of 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid in 25 parts of ethyl alcohol and the mixture heated on the steam bath for 5 minutes.

reactant | tris (hydroxymethyl) methylamine | OCC(N)(CO)CO | C4H11NO3
reactant | 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)C(=O)O)=O)C=C2)CCC)O)C=C1)CCC)O | C27H30O9
solvent | ethyl alcohol | C(C)O | C2H6O
product | 7-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid tris (hydroxymethyl) methylamine salt monohydrate | O.OCC(N)(CO)CO.C(C)(=O)C1=C(C(=C(OCC(COC2=C(C3=C(C(C=C(O3)C(=O)O)=O)C=C2)CCC)O)C=C1)CCC)O | InChI=1S/C27H30O9.C4H11NO3.H2O/c1-4-6-19-22(10-8-17(15(3)28)25(19)31)34-13-16(29)14-35-23-11-9-18-21(30)12-24(27(32)33)36-26(18)20(23)7-5-2;5-4(1-6,2-7)3-8;/h8-12,16,29,31H,4-7,13-14H2,1-3H3,(H,32,33);6-8H,1-3,5H2;1H2
